US09169217B2
Preparation of benzyl 4-amino-3-bromo-6-(4-chloro-2-fluoro-3-methoxy-phenyl)-5-fluoropicolinate (Compound 43)
N-Bromosuccinimide (NBS; 580 mg, 3.3 mmol, 1.1 equiv) was added to a stirred suspension of benzyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropicolinate (1.2 g, 3.0 mmol, 1.0 equiv) in 1,2-dichloroethane (15 mL) at 23° C. The resulting bright yellow mixture was stirred at 23° C. for 72 h. The brown reaction mixture was concentrated by N2 stream and the residue was purified by silica gel column chromatography (eluting with 29% EtOAc/hexane) to afford the desired product, benzyl 4-amino-3-bromo-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropicolinate as a tan powder (1.3 g, 93%): mp 144-146° C.; IR (thin film) 3370 (s), 3225 (w), 3190 (w), 3093 (w), 3066 (w), 3037 (w), 2948 (w), 1731 (s), 1616 (s) cm−1; 1H NMR (400 MHz, CDCl3) δ 7.47 (m, 2H), 7.41-7.33 (m, 3H), 7.26-7.22 (m, 2H), 5.42 (s, 2H), 4.98 (br s, 2H), 3.96 (d, J=1 Hz, 3H); ESIMS m/z 485 ([M+H]+).

reactant | N-Bromosuccinimide | 3.3 mmol, 580 mg, 1.1 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropicolinate | 3.0 mmol, 1.2 g, 1.0 equiv | NC1=CC(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OCC1=CC=CC=C1 | C20H15ClF2N2O3
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | benzyl 4-amino-3-bromo-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropicolinate | 1.3 g, 93% | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OCC1=CC=CC=C1)Br | C20H14BrClF2N2O3
